US05232929
In a round-bottom flask were placed 15 g (50.6 mmol) of the nitro lactam 4,6-diphenyl-5-nitro-2-oxopiperidine and 85 mL of methylene chloride. Potassium tert-butoxide (5.72 g, 50.6 mmol) was added and the mixture was stirred for 15 min. To this system was added 85 mL of methanol. The mixture was stirred for 15 min and the system was cooled to -78° C. Ozone was bubbled through the reaction mixture for 4 hours, nitrogen was bubbled through the mixture, 10 mL of dimethyl sulfide was added and nitrogen was bubbled through the mixture overnight. A mixture of water and methylene chloride was added to the system and the resulting solid (8.8 g of a mixture of the nitro lactam 4,6-diphenyl-5-nitro-2-oxopiperidine and 2,5-dioxo-4,6-diphenyl-piperidine was collected by suction filtration. The filtrate was concentrated with a rotary evaporator and the residue was partitioned between methylene chloride and water. The layers were separated, and the aqueous phase was extracted with two portions of methylene chloride. The combined organic fractions were dried (sodium sulfate) and concentrated to afford 5.14 g of crude 2,5-dioxo-4,6-diphenylpiperidine which was used immediately without further purification. Under a nitrogen atmosphere in a round-bottom flask were placed 2,5-dioxo-4,6-diphenylpiperidine (5.14 g, 19 mmol) and 75 mL of ethanol. A solution of 3.96 g (57 mmol) of hydroxylamine hydrochloride and 7.74 g (95 mmol) of sodium acetate in 25 mL of water were added and the reaction mixture was stirred at room temperature. The reaction mixture was concentrated to ca. 1/2 its initial volume, and the resulting precipitate was collected by suction filtration. This precipitate (1.5 g) was washed with saturated aqueous sodium bicarbonate, water and ether to afford 722 mg of 4,6-diphenyl-5-oximino-2-oxopiperidine as a white solid.

reactant | 2,5-dioxo-4,6-diphenylpiperidine | 19 mmol, 5.14 g | O=C1NC(C(C(C1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C17H15NO2
reactant | ethanol | 75 mL | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 57 mmol, 3.96 g | Cl.NO
reactant | sodium acetate | 95 mmol, 7.74 g | C(C)(=O)[O-].[Na+]
solvent | water | 25 mL | O | H2O
product | 4,6-diphenyl-5-oximino-2-oxopiperidine | 722 mg | C1(=CC=CC=C1)C1CC(NC(C1=NO)C1=CC=CC=C1)=O | C17H16N2O2
